US06545135B2
2,3,5-Tri-O-benzyl-1-O-(1-amino-eth-2-yl)-ribofuranose
A mixture that consists of 42.1 g (100 mmol) of 2,3,5-tri-O-benzyl-ribofuranose, 3.40 g (10 mmol) of tetrabutylammonium hydrogen sulfate and 33.7 g (600 mmol) of fine-powder potassium hydroxide in 3050 ml of benzene is cooled to 10° C. At 10° C., 38.1 g (150 mmol) of N-(2-bromoethyl)-phthalimide, dissolved in 100 ml of benzene, is added in drops over 40 minutes while being stirred vigorously. It is stirred for three hours at 10° C. 300 ml of benzene is added, solid is filtered out, and the filtrate is evaporated to the dry state in a vacuum. The filtrate residue is dissolved in 500 ml of ethanol, 25.03 g of hydrazine hydrate (500 mmol) is added, and it is refluxed for six hours. It is allowed to cool to 0° C., deposited precipitate is filtered out, and the filtrate is evaporated to the dry state in a vacuum. The residue is dissolved in 400 ml of dichloromethane, and this solution is washed twice with 5% aqueous sodium hydroxide solution and then once with water (in each case 300 ml). The organic phase is evaporated to the dry state in a vacuum, and the residue is chromatographed on silica gel (mobile solvent: dichloromethane/ethanol/triethylamine=20:2:0.1).

reactant | 2,3,5-tri-O-benzyl-ribofuranose | 100 mmol, 42.1 g | C(C1=CC=CC=C1)O[C@H]1C(O)O[C@@H]([C@H]1OCC1=CC=CC=C1)COCC1=CC=CC=C1 | C26H28O5
reactant | potassium hydroxide | [OH-].[K+]
reactant | N-(2-bromoethyl)-phthalimide | 150 mmol, 38.1 g | BrCCN1C(C=2C(C1=O)=CC=CC2)=O | C10H8BrNO2
reactant | hydrazine hydrate | 500 mmol, 25.03 g | O.NN
catalyst | tetrabutylammonium hydrogen sulfate | 10 mmol, 3.40 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | benzene | 3050 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 300 ml | C1=CC=CC=C1 | C6H6
product | 2,3,5-Tri-O-benzyl-1-O-(1-amino-eth-2-yl)-ribofuranose | C(C1=CC=CC=C1)O[C@H]1C(OCCN)O[C@@H]([C@H]1OCC1=CC=CC=C1)COCC1=CC=CC=C1 | C28H33NO5
